US06933304B2
3-(2-methyl-1,8-naphthyridin-3-yl)propanenitrile:
A mixture of 5-oxo-hexanenitrile (5 mL, TCI-US), 2-amino-3-formylpyridine (7 g, J. Org. Chem. 1983, vol.48, p3401) and ethanol (100 mL) was heated to reflux for 12 hours. Following evaporation of the solvent, the residue was chromatographed (silica gel, ethyl acetate) to give 4-[1,8]naphthyridin-2-yl-butyronitirile and the title product as colorless solids. 1H (CDCl3) δ 2.29 (3H, s); 2.83 (2H, t); 3.18 (2H, t); 7.48 (1H, dd); 8.04 (1H, s); 8.20 (1H, dd); 9.03 (1H, dd). Step 2

reactant | 5-oxo-hexanenitrile | 5 mL | O=C(CCCC#N)C | C6H9NO
reactant | 2-amino-3-formylpyridine | 7 g | NC1=NC=CC=C1C=O | C6H6N2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(2-methyl-1,8-naphthyridin-3-yl)propanenitrile | CC1=NC2=NC=CC=C2C=C1CCC#N | C12H11N3
